US08609676B2
Step 2:—5-(benzyloxy)pyrimidine-4,6-diol
Dimethyl 2-(benzyloxy)malonate (16.1 g, 0.0675 mol) was dissolved in MeOH (27 ml), NaOMe (42.59 ml of a 30% solution in MeOH, 3.5 eq) was added and the mixture cooled to 0 C. Formamidine hydrochloride (5.68 g, 1.05 eq) was added and the mixture stirred at 0° C. for 30 minutes and then at reflux for 2 hours. After cooling to 0° C. concentrated HCl (21 ml) was added and the solid was collected by filtration (washing with cold water 3×20 ml) to give 15.14 g of the title compound.

reactant | Dimethyl 2-(benzyloxy)malonate | 0.0675 mol, 16.1 g | C(C1=CC=CC=C1)OC(C(=O)OC)C(=O)OC | C12H14O5
reactant | NaOMe | C[O-].[Na+]
reactant | Formamidine hydrochloride | 5.68 g, 1.05 eq | Cl.C(=N)N
reactant | HCl | 21 ml | Cl | ClH
solvent | MeOH | 27 ml | CO | CH4O
product | 5-(benzyloxy)pyrimidine-4,6-diol | 15.14 g | C(C1=CC=CC=C1)OC=1C(=NC=NC1O)O | C11H10N2O3
